US08071597B2
Intermediate 83: 6-(chloromethyl)-N-{3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}pyridine-3-sulfonamide (Formula I)
N-{3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}-6-(hydroxymethyl)pyridine-3-sulfonamide (90 mg; 0.19 mmol; 1 eq.) is dissolved in CHCl3 (10 ml) at rt. Thionyl chloride (0.05 ml; 0.39 mmol; 2 eq.) is added and reaction mixture is stirred for 1 h30. Water and aqueous NaHCO3 are added and the product is extracted with DCM. The organic phase is dried over magnesium sulfate and the solvent is evaporated under reduced pressure to afford 100 mg (108%) of the title compound as a powder. It was used as such in the next step. HPLC (max plot) 35%; Rt 4.78 min, LC/MS: (ES+) 486.22, (ES−) 484.22.

reactant | N-{3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}-6-(hydroxymethyl)pyridine-3-sulfonamide | 0.19 mmol, 90 mg, 1 eq. | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=NC(=CC1)CO | C22H21N5O5S
reactant | Thionyl chloride | 0.39 mmol, 0.05 ml, 2 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | Water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(chloromethyl)-N-{3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}pyridine-3-sulfonamide | 100 mg, 108% | ClCC1=CC=C(C=N1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)OC | C22H20ClN5O4S
